US03944675
N-(4-Methoxybenzyl)-1-adamantanecarboxamide
Subject 4.0 g. (29.0 mmoles) of p-methoxy-benzylamine, 5.7 g. (29.0 mmoles) of adamantane carboxylic acid chloride and 10 ml. of triethylamine to the process of Example 11. Crystallize the residue obtained thereby from chloroform to obtain the product of this Example, m.p. 91°-94°C.

reactant | p-methoxy-benzylamine | 29.0 mmoles | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | adamantane carboxylic acid chloride | 29.0 mmoles | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(4-Methoxybenzyl)-1-adamantanecarboxamide | COC1=CC=C(CNC(=O)C23CC4CC(CC(C2)C4)C3)C=C1 | C19H25NO2
